US04083983
Thionyl chloride (23 cc) was added over 25 minutes to a stirred solution of 2-hydroxymethyl-4-methoxypyridine (8.935 g) in chloroform at room temperature, and the mixture was stirred for a further 2 hours and was evaporated to dryness and the residue was triturated with ether and recrystallised from 0.9N ethanolic hydrogen chloride/ether (7:5) to give 2-chloromethyl-4-methoxypyridine hydrochloride m.p. 142° (decomp).(12.1 g).

reactant | Thionyl chloride | 23 cc | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-methoxypyridine | 8.935 g | OCC1=NC=CC(=C1)OC | C7H9NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-chloromethyl-4-methoxypyridine hydrochloride | Cl.ClCC1=NC=CC(=C1)OC | InChI=1S/C7H8ClNO.ClH/c1-10-7-2-3-9-6(4-7)5-8;/h2-4H,5H2,1H3;1H
